US04824958
Methyl 4-bromo-3-hydroxy-5-methyl-2-thiophenecarboxylate.
Bromine (4.6 g, 29 mmoles) is added dropwise at room temperature to a stirred solution of methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate (5.0 g, 29 mmoles) in acetic acid (25 mL). After 16 hours the mixture is stirred into ice water (200 mL), and the precipitate is filtered off, rinsed with water, with aqueous sodium thiosulfate, again with water and dried. Recrystallization from methyl t-butyl ether gave the pure product (4.1 g); mp 96°-97° C.

reactant | Bromine | 29 mmoles, 4.6 g | BrBr | Br2
reactant | methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate | 29 mmoles, 5.0 g | OC1=C(SC(=C1)C)C(=O)OC | C7H8O3S
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | Methyl 4-bromo-3-hydroxy-5-methyl-2-thiophenecarboxylate | 4.1 g | BrC=1C(=C(SC1C)C(=O)OC)O | C7H7BrO3S
